US08003681B2
4-Methyl-naphthalen-1-ylamine
To a solution of 1-methyl-4-nitro-naphthyl-amine (4.0 g, 21 mmol) in ethanol (300 mL) was added Raney-Nickel (4 scoops). The mixture was stirred under H2 (1 atm) for 16 h. The reaction was filtered through a pad of Celite and concentrated. Purification by silica gel flash column chromatography (EtOAc:Hexanes=15:85) provided product (3.2 g, 75%).

reactant | 1-methyl-4-nitro-naphthyl-amine | 21 mmol, 4.0 g | CC1=C(C=C(C2=CC=CC=C12)[N+](=O)[O-])N | C11H10N2O2
solvent | ethanol | 300 mL | C(C)O | C2H6O
catalyst | Raney-Nickel | [Ni] | Ni
product | 4-Methyl-naphthalen-1-ylamine | 3.2 g, 75% | CC1=CC=C(C2=CC=CC=C12)N | C11H11N
